US04766137
(1) 2-amino-4-(3-bromo-5-isoxazolyl)-thiazole
A mixture of 32.4 g (120.4 mol) of 5-bromoacetyl-3-bromoisoxazole and 18.4 g (240 mmol) of thiourea in 400 ml of anhydrous ethanol was refluxed for 90 minutes.

reactant | 5-bromoacetyl-3-bromoisoxazole | 120.4 mol, 32.4 g | BrCC(=O)C1=CC(=NO1)Br | C5H3Br2NO2
reactant | thiourea | 240 mmol, 18.4 g | NC(=S)N | CH4N2S
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-amino-4-(3-bromo-5-isoxazolyl)-thiazole | NC=1SC=C(N1)C1=CC(=NO1)Br | C6H4BrN3OS
